US04959381
N-[5-(2-Phenylethoxy)pentyl]benzenemethanamine
[2-[(5-Bromopentyl)oxy]ethyl]benzene (10.0 g) was added over 1 h to benzylamine (30 ml) at ca. 120° under nitrogen. After 2 h at 120° the reaction mixture was added to 2N hydrochloric acid (200 ml), the mixture was extracted with ethyl acetate (2×250 ml) and the combined organic extracts were washed with 2N sodium carbonate, water and brine, dried and concentrated in vacuo to give the title compound as a pale yellow oil (8.6 g), t.l.c. (ethyl acetate-triethylamine 99:1) Rf 0.78

reactant | [2-[(5-Bromopentyl)oxy]ethyl]benzene | 10.0 g | BrCCCCCOCCC1=CC=CC=C1 | C13H19BrO
reactant | benzylamine | 30 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | hydrochloric acid | 2N, 200 ml | Cl | ClH
product | N-[5-(2-Phenylethoxy)pentyl]benzenemethanamine | 8.6 g | C1(=CC=CC=C1)CCOCCCCCNCC1=CC=CC=C1 | C20H27NO
